.SUBCKT pot 1 2 3 r=100k k=0.5
*
R1 2 3 {r*(1-k)}
R2 1 2 {r*(k)}
.ENDS
.SUBCKT dualpot 1 2 3 4 5 6 r=100k k=0.5
*
X1 1 2 3 pot r=r k=k
X2 4 5 6 pot r=r k=k
.ENDS
.SUBCKT spdt 1 2 3 a=1 b=0 r=1g
*
R1 2 3 {r*(1-b)}
R2 1 2 {r*(1-a)}
.ENDS
